US04059600
10.2 g of 3,7,11-trimethyl-2-cis/trans, 4-cis/trans, 10-cis/trans-tridecatrienoic acid are dissolved in 65 ml of absolute benzene and 3.5 ml of pyridine and then treated at a temperature between 5° C and 10° C with 3.4 ml of thionyl chloride (dropping time ca 15 minutes). The mixture is subsequently stirred for 1 hour at room temperature, then the liquid is decanted off and the residue is washed out with benzene. The solution is evaporated to dryness under anhydrous conditions. The residue is dissolved in 20 ml of absolute benzene and added dropwise at a temperature between 5° C and 10° C to a solution of 3.6 ml of allyl alcohol and 3.5 ml of pyridine in 50 ml of benzene (dropping time ca 30 minutes). After stirring overnight at room temperature, the solution is diluted with ether and washed with 1-N aqueous hydrochloric acid, then with saturated aqueous sodium bicarbonate solution and finally with sodium chloride solution. After drying, the ether phase is evaporated. The crude product is chromatographed on the 30-fold amount of Kieselgel (eluant: hexane/ether 19:1 parts by volume). 3,7,11-Trimethyl-2-cis/trans, 4-cis/trans, 10-cis/trans-tridecatrienoic acid allyl ester is obtained as a colorless oil of boiling point 120° C/0.05 mmHg (bulb-tube); nD25 = 1.5026.

reactant | trans-tridecatrienoic acid | C(\C=C\C=CC=CCCCCCC)(=O)O | C13H20O2
reactant | pyridine | 3.5 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 3.4 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 65 ml | C1=CC=CC=C1 | C6H6
product | trans-tridecatrienoic acid allyl ester | C(C=C)OC(\C=C\C=CC=CCCCCCC)=O | C16H24O2
